US04198422
2-Amino-7-isobutylsulfinyl-3-nitronaphthalene
To 0.1 mol of 2-amino-7-isobutylthio-3-nitronaphthalene, prepared in Example 5, stirring in 200 ml of chloroform at 4°-6° (ice bath), is added 0.1 mol of m-chloroperbenzoic acid in 160 ml of chloroform over 3 hours. Consumption of starting material is confirmed by TLC (silica gel, ether). The reaction mixture is washed 3 times with saturated NaHCO3 solution, dried (Na2SO4), and filtered. The filtrate is evaporated to dryness under vacuum and the residue recrystallized from ethanol (absolute) to yield the title compound.

reactant | 2-amino-7-isobutylthio-3-nitronaphthalene | 0.1 mol | NC1=CC2=CC(=CC=C2C=C1[N+](=O)[O-])SCC(C)C | C14H16N2O2S
reactant | m-chloroperbenzoic acid | 0.1 mol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-7-isobutylsulfinyl-3-nitronaphthalene | NC1=CC2=CC(=CC=C2C=C1[N+](=O)[O-])S(=O)CC(C)C | C14H16N2O3S
